US20010056188A1
1) 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-isopropylsulfonyl-3-methylsulfanyl-2-propenenitrile
A solution of 2-propanesulphonylacetonitrile (4.0 g, 27.2 mmol) in dry acetone (50 ml) was stirred while dry potassium carbonate (7.52 g, 54.4 mmol) and 3,5-bis(trifluoromethyl)phenyl isothiocyanate (7.72 g, 4.87 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 20 h. Excess of potassium carbonate was filtered off, methyl iodide (5.08 ml, 81.6 mmol) was added to the filtrate, and stirring was continued for 48 h. The mixture was evaporated and the residue was dissolved in dichloromethane and extracted with water and brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to afford 11.65 g (99%) of the title compound as yellowish brown crystals. Mp 130-133° C. 1H NMR (200 MHz, CDCl3): δ=1.47 (d, 6H), 2.35 (s, 3H), 3.44 (heptet, 1H), 7.73 (s, 2H), 7.80 (s, 1H), 10.10 (br s, 1H);

reactant | 2-propanesulphonylacetonitrile | 27.2 mmol, 4.0 g | C(CC)S(=O)(=O)CC#N | C5H9NO2S
reactant | potassium carbonate | 54.4 mmol, 7.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-bis(trifluoromethyl)phenyl isothiocyanate | 4.87 mmol, 7.72 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
reactant | methyl iodide | 81.6 mmol, 5.08 ml | CI | CH3I
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-isopropylsulfonyl-3-methylsulfanyl-2-propenenitrile | 11.65 g, 99% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C(C)C)SC)(F)F | C15H14F6N2O2S2
